data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2879,3199,[Br:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][C:11]([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[CH2:24][CH2:25][CH2:26][CH2:27]1.[CH3:28][O:29][C:30](=[O:31])[C:32](=[O+:33][CH-:34][C:35]([CH3:36])=[O:37])[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1>>[Br:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([C:11]([c:12]3[cH:13][cH:14][cH:15][cH:16][cH:17]3)([c:18]3[cH:19][cH:20][cH:21][cH:22][cH:23]3)[CH2:24][CH2:25][CH2:26][CH2:27]1)[CH:34]([C:35]([CH3:36])=[O:37])[O:33][C:32]2([C:30]([O:29][CH3:28])=[O:31])[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1,water,298.15,13.657723120921885,-51.541386242610464
1490,1645,[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23]([C:24]#[N:25])[n+:26]1[CH3:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:23]1([C:24]#[N:25])[O:22][C:20](=[O:21])[C:19]3([C:17]([NH:16][CH3:15])=[O:18])[N:26]1[CH3:27],water,298.15,20.230892369678127,-16.223547759376203
554,606,[CH3:1][C:2](=[O:3])[C:4]#[C:5][c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1.[O:12]=[c:13]1[n-:14][nH+:15][c:16](-[c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[o:23]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[N:14]2[C:13](=[O:12])[O:23][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:15]2,water,298.15,36.19623287058406,13.242963480163317
2280,2527,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2.[N:12]#[C:13][C:14](=[O+:15][C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:15][C:14]2([C:13]#[N:12])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,21.314279129573208,-14.422475735301347
3090,3477,[CH2:9]=[NH+:10][N-:11][C:12](=[O:13])[O:14][CH3:15].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:11]([C:12](=[O:13])[O:14][CH3:15])[NH:10][CH2:9]1,water,298.15,20.67249430211479,-16.594332512616838
159,176,[CH3:11][C:12]#[N+:13][N-:14][C:15](=[O:16])[NH:17][CH3:18].[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([F:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:12]([CH3:11])=[N:13][N:14]3[C:15](=[O:16])[NH:17][CH3:18],water,298.15,16.784609330235767,-55.27854338267059
2612,2894,[CH3:1][O:2][C:3](=[O:4])/[C:5](=[C:6](/[C:7](=[O:8])[O:9][CH3:10])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:23][C-:24]([N+:25]#[C:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][O:2][C:3](=[O:4])[C@@:5]1([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[C@@:6]([C:7](=[O:8])[O:9][CH3:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[C:24]([CH3:23])([c:33]2[cH:34][cH:35][cH:36][cH:37][cH:38]2)[N:25]=[C:26]1[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,14.4715422929918,-18.311645918885223
1857,2060,[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1.[N:13]#[C:14][C:15]([C:16]#[N:17])=[NH+:18][CH-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([Cl:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[NH:18][C:15]2([C:14]#[N:13])[C:16]#[N:17],water,298.15,19.86648965573757,-21.005223256146625
795,862,[CH3:13][C:14]([CH3:15])=[NH+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:14]([CH3:13])([CH3:15])[NH:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,8.249997965542804,-29.03521505430377
4199,4804,[CH3:6][NH:7][C:8](=[O:9])[C-:10]([CH3:11])[O+:12]=[C:13]([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([CH3:11])[O:12][C:13]1([C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[O:20][CH3:21],water,298.15,47.32968980561435,10.468106066138164
3861,4419,[CH3:9][CH-:10][O+:11]=[C:12]([C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:10]([CH3:9])[O:11][C:12]1([C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20],water,298.15,9.982735735708822,-38.79909430670261
